US09216999B2
1-Benzylpiperidine-3-carboxylic acid
Nipecotic acid (1.31 g, 10.2 mmol), benzaldehyde (1.12 g, 10.6 mmol) and 5% palladium-carbon (0.18 g) in methanol (10 mL) was stirred at room temperature for one day under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was dissolved in methanol (50 mL) was stirred with benzaldehyde (4.40 g, 41.5 mmol) and 5% palladium-carbon (0.118 g) at room temperature for one day. The reaction mixture was filtered, and the filtrated was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform/methanol=10/1→5/1 (v/v)) to give the title compound as a colorless oil (1.41 g, yield 63%).

reactant | Nipecotic acid | 10.2 mmol, 1.31 g | N1CC(C(=O)O)CCC1 | C6H11NO2
reactant | benzaldehyde | 10.6 mmol, 1.12 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzaldehyde | 41.5 mmol, 4.40 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium-carbon | 0.18 g | [C].[Pd]
catalyst | palladium-carbon | 0.118 g | [C].[Pd]
product | 1-Benzylpiperidine-3-carboxylic acid | 1.41 g, yield 63% | C(C1=CC=CC=C1)N1CC(CCC1)C(=O)O | C13H17NO2
